US07446216B2
A total of 145 g (0.63 mol) of 2-bromo-2-methylpropanoyl bromide were added dropwise to a suspension of 223 g (1.67 mol) AlCl3 in 200 ml of CH2Cl2 with vigorous stirring for 15 min at 0° C. This mixture was stirred for 45 min at this temperature; then a solution of 83.4 g (0.63 mol) of tetraline in 200 ml of CH2Cl2 was added dropwise. The mixture was slowly warmed to ambient temperature, stirred additionally overnight, and, then, poured on 1000 cm3 of ice. The organic layer was separated, the aqueous layer was extracted with 3×300 ml of CH2Cl2. The combined organic fractions were dried over MgSO4 and evaporated to dryness. Fractional distillation gave a yellowish mixture of the title indanones, b.p. 183-190° C./7 mm Hg. This mixture was recrystallized from 300 ml of n-hexane. Crystals of 2-methyl-1,2,6,7,8,9-hexahydro-3H-cyclopenta[a]naphthalen-3-one that precipitated at −30° C. were filtered off, washed with 2×25 ml of cold n-hexane, and dried in vacuum. Yield 56.5 g (45%). The filtrate was evaporated to dryness and dried in vacuum. This procedure gave 39.3 g (31%) of pure 2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one.

reactant | 2-bromo-2-methylpropanoyl bromide | 0.63 mol, 145 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | AlCl3 | 1.67 mol, 223 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | tetraline | 0.63 mol, 83.4 g | C1CCCC2=CC=CC=C12 | C10H12
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one | 39.3 g, 31% | CC1CC=2C(=CC=3CCCCC3C2)C1=O | C14H16O
